US06458802B1
8-Ethyl-2-[(4-(1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
To a solution of (2R)-8-ethyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate (0.60 g, 1.5 mmole) and potassium carbonate (0.65 g, 4.70 mmole) in 30 mL of 1:1 THF/DMF was added 0.90 g (4.5 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole. The mixture was heated at reflux under nitrogen for 6 hours. After cooling to room temperature, the mixture was concentrated to dryness under vacuum and the residue column chromatographed on silica gel using first methylene chloride to elute impurities and then 3% methanol in methylene chloride to elute the product. The product-containing fractions were concentrated in vacuum and the residue recrystallized from ethanol to give 0.42 g of the (S)-enantiomer of the title compound as a yellow solid (m.p. 190° C.).

reactant | (2R)-8-ethyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.5 mmole, 0.60 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)CC)O1 | C21H21NO5S
reactant | potassium carbonate | 4.70 mmole, 0.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.5 mmole, 0.90 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | THF DMF | 30 mL | C1CCOC1.CN(C)C=O
product | 8-Ethyl-2-[(4-(1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | C(C)C1=NC2=CC=C3C(=C2C=C1)OC(CO3)CN3CCC(=CC3)C3=CNC1=CC=CC=C31 | C27H27N3O2
